US05190921
1.1 g of ethyl 2-acetamido-2-(4-chloromethylbenzyl)malonate are added to a solution of 3.31 g of sodium sulfite in 20 cm3 of distilled water, and 8 cm3 of a 10% aqueous solution of caustic soda, and the reaction mixture is heated for 3 hours to a temperature of about 120° C. After cooling to a temperature of about 20° C., the reaction mixture is taken to pH=1 by means of a 1N aqueous solution of hydrochloric acid, and the mixture is again heated to 120° C. for 1 hour. The reaction mixture is cooled to a temperature of about 20° C., and taken up in 150 cm3 of ethanol; the inorganic salts are separated off by filtration and the filtrate is concentrated to dryness under reduced pressure (20 mm of mercury; 2.7 kPa) at 30° C. The residue obtained is passed through a 2.5 cm diameter chromatography column packed with 100 g of silica gel, eluting with a mixture of dichloromethane, methanol, water and acetic acid (respectively 70-30-6-3 by volume). 424 mg of monosodium N-acetyl-4-sulfonatomethylphenylalanine are thus obtained.

reactant | ethyl 2-acetamido-2-(4-chloromethylbenzyl)malonate | 1.1 g | C(C)(=O)NC(C(=O)OCC)(C(=O)[O-])CC1=CC=C(C=C1)CCl
reactant | sodium sulfite | 3.31 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | caustic soda | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 cm3 | O | H2O
solvent | ethanol | 150 cm3 | C(C)O | C2H6O
product | monosodium N-acetyl-4-sulfonatomethylphenylalanine | 424 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)CS(=O)(=O)[O-])C(=O)O.[Na+] | InChI=1S/C12H15NO6S.Na/c1-8(14)13-11(12(15)16)6-9-2-4-10(5-3-9)7-20(17,18)19;/h2-5,11H,6-7H2,1H3,(H,13,14)(H,15,16)(H,17,18,19);/q;+1/p-1/t11-;/m0./s1
